US03978097
A solution of 0.862 g (2.93 millimols) of mercury diacetate in 20 cc of absolute methanol is added dropwise, whilst stirring, at 0°-5°C, over the course of 15 minutes, to 0.50 g (1.84 millimols) of 1-(4,8-dimethyl-1,7-nonadienyl)-3,4-methylenedioxybenzene in 10 cc of absolute methanol. The mixture is stirred for a further 30 minutes at 0°-5°C. 0.72 g (12.8 millimols) of potassium hydroxide in 10 cc of methanol, followed by 0.053 g (1.40 millimols) of sodium borohydride, are subsequently added. The mixture is stirred at room temperature over night, the solution is decanted off from the resulting mercury and 50 cc of water are added. The mixture is concentrated by evaporation to 40 cc in a vacuum. The residue is extracted with ether, the extract is washed with water and saturated sodium chloride solution, dried over sodium sulphate and evaporated. After chromatography of the residue on silica gel with hexane/ethyl acetate (98:2), pure 1-(8-methoxy-4,8-dimethyl-1-nonenyl)-3,4-methylenedioxybenzene is obtained as a colourless oil apart from a small amount of starting material. nD20 = 1.5288.

reactant | 1-(4,8-dimethyl-1,7-nonadienyl)-3,4-methylenedioxybenzene | 1.84 millimols, 0.50 g | CC(CC=CC1=CC2=C(C=C1)OCO2)CCC=C(C)C | C18H24O2
reactant | potassium hydroxide | 12.8 millimols, 0.72 g | [OH-].[K+]
reactant | sodium borohydride | 1.40 millimols, 0.053 g | [BH4-].[Na+]
reactant | methanol | 20 cc | CO | CH4O
reactant | methanol | 10 cc | CO | CH4O
reactant | methanol | 10 cc | CO | CH4O
catalyst | mercury diacetate | 2.93 millimols, 0.862 g | C(C)(=O)[O-].C(C)(=O)[O-].[Hg+2]
product | 1-(8-methoxy-4,8-dimethyl-1-nonenyl)-3,4-methylenedioxybenzene | COC(CCCC(CC=CC1=CC2=C(C=C1)OCO2)C)(C)C | C19H28O3
